US07276519B2
A mixture of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-3-(4-formylphenyl)thieno[3,2-b]pyridine-6-carbonitrile (200 mg, 0.44 mmol) and 1.1 mL of a 2 M solution of dimethylamine in tetrahydrofuran (2.20 mmol) in 5 mL of dichloromethane and 1 mL of dimethylformamide is cooled to 0° C. Sodium triacetoxyborohydride (560 mg, 2.64 mmol) is added in portions followed by 3 drops of acetic acid. The resulting mixture is stirred at room temperature for 2.5 hours then quenched by the addition of water. The mixture is partitioned between dichloromethane and saturated aqueous sodium bicarbonate. The organic phase is washed with saturated aqueous sodium chloride, dried over sodium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography eluting with a gradient of methanol in dichloromethane to provide 147 mg (69%) of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-3-{4-[(dimethylamino)methyl]phenyl}thieno[3,2-b]pyridine-6-carbonitrile as a white solid, mp 201–202° C.; 1 H NMR (DMSO-d6) δ 2.19 (s, 6H), 3.46 (s, 2H), 3.86 (s, 3H), 7.38 (d, J=8 Hz, 2H), 7.42 (s, 1H), 7.78 (s, 1H), 7.89 (d, J=8 Hz, 2H), 8.31 (s, 1H), 8.69 (s, 1H), 9.78 (s, 1H); MS 483.0, 485.0 (M+H)+; HRMS found: 483.08061 (M+H)+.

reactant | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-3-(4-formylphenyl)thieno[3,2-b]pyridine-6-carbonitrile | 0.44 mmol, 200 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C(=CS2)C2=CC=C(C=C2)C=O | C22H13Cl2N3O2S
reactant | dimethylamine | CNC | C2H7N
reactant | tetrahydrofuran | 2.20 mmol | O1CCCC1 | C4H8O
reactant | Sodium triacetoxyborohydride | 2.64 mmol, 560 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-3-{4-[(dimethylamino)methyl]phenyl}thieno[3,2-b]pyridine-6-carbonitrile | 147 mg, 69% | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C(=CS2)C2=CC=C(C=C2)CN(C)C | C24H20Cl2N4OS
